US04922021
6.5 ml (10.76 g, 90.4 mmoles) of thionyl chloride are added dropwise, within 20 minutes, to a solution of 20 g (90.4 mmoles) of 1[N-(2,6-dimethylphenyl)-acetamido]-2-propanol in 200 ml of benzene, and the mixture is boiled until the gas evolution ceases (for about 0.25 hours). The mixture is cooled, the solvent is evaporated under reduced pressure, and the oily residue is distilled under reduced pressure. 17.75 g (81.9%) of 1-[N-(2,6-dimethylphenyl)-acetamido]-2-chloro-propane are obtained; b.p.: 138°-140° C./93.3 Pa, m.p.: 41°-42° C.

reactant | thionyl chloride | 90.4 mmoles, 6.5 ml, 10.76 g | S(=O)(Cl)Cl | Cl2OS
reactant | 1[N-(2,6-dimethylphenyl)-acetamido]-2-propanol | 90.4 mmoles, 20 g | CC1=C(C(=CC=C1)C)N(C(C)=O)CC(C)O | C13H19NO2
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 1-[N-(2,6-dimethylphenyl)-acetamido]-2-chloro-propane | 17.75 g, 81.9% | CC1=C(C(=CC=C1)C)N(C(C)=O)CC(C)Cl | C13H18ClNO
